US04623647
Preparation of 1-(hydroxymethyl)-9,10-dimethoxy-1,6,7,11b-tetrahydro-2H,4H-[1,3]oxazino-[4,3-a]isoquinoline
6 mmoles (1.6 g) of 1-[bis(hydroxymethyl)-methyl]-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline are stirred with 10 ml of aqueous (30-35%) formaldehyde for half an hour. The reaction mixture is alkalized with 10 ml of a 30% aqueous sodium hydroxide solution and extracted with ethyl acetate. Drying and evaporation of the extract yields the aimed compound in a yield of 89%.

reactant | 1-[bis(hydroxymethyl)-methyl]-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 6 mmoles, 1.6 g | OCC(C1NCCC2=CC(=C(C=C12)OC)OC)CO | C14H21NO4
reactant | formaldehyde | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-(hydroxymethyl)-9,10-dimethoxy-1,6,7,11b-tetrahydro-2H,4H-[1,3]oxazino-[4,3-a]isoquinoline | yield of 89% | OCC1COCN2C1C1=CC(=C(C=C1CC2)OC)OC | C15H21NO4
